US04529736
A mixture of 0.7 g (0.0027 mole) of 2-(3,4-dichlorophenyl-N-methylmaleimide and 5.0 g (0.05 mole) of 1,3-cycloheptadiene in a pressure vessel was heated in an oil bath at a bath temperature of 180° C. for 24 hours. The reaction vessel was cooled to room temperature and the contents were dissolved in and removed with the aid of dichloromethane and acetone. The solution was concentrated in vacuo and gave a tacky glass. The glass was dissolved in dichloromethane and filtered through hydrous magnesium silicate. The filtrate was again concentrated in vacuo and gave a glass. The glass was dissolved in dichloromethane and was chromatographed on a Waters Prep 500A LC, using a silica gel column and eluting with 10% ethyl acetate/hexane and gave 0.56 g of 3a-(3,4-dichlorophenyl)-3a,4,7,7a-tetrahydro-2-methyl-4,7-propano-1H-isoindol-1,3(2H)-dione as a yellow glass, mp 110°-115° C., mass spectrum, m/e 349.

reactant | 3,4-dichlorophenyl-N-methylmaleimide | ClC=1C=C(C=CC1Cl)C=1C(=O)N(C(C1)=O)C | C11H7Cl2NO2
reactant | 1,3-cycloheptadiene | 0.05 mole, 5.0 g | C1=CC=CCCC1 | C7H10
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3a-(3,4-dichlorophenyl)-3a,4,7,7a-tetrahydro-2-methyl-4,7-propano-1H-isoindol-1,3(2H)-dione | 0.56 g | ClC=1C=C(C=CC1Cl)C12C(N(C(C2C2C=CC1CCC2)=O)C)=O | C18H17Cl2NO2
